US04096143
A solution of 23.9 g (0.1 mole) of 4-chloro-2-dichloromethylbenzoic acid and 16 g (0.32 mole) of hydrazine hydrate in 200 ml of ethanol was heated under reflux for 3 hours. The ethanol was evaporated under reduced pressure, and the residue recrystallized from ethanol to give 11.4 g (yield: 63%) of 6-chloro-1-phthalazinone having a melting point of 272°-273° C.

reactant | 4-chloro-2-dichloromethylbenzoic acid | 0.1 mole, 23.9 g | ClC1=CC(=C(C(=O)O)C=C1)C(Cl)Cl | C8H5Cl3O2
reactant | hydrazine hydrate | 0.32 mole, 16 g | O.NN
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 6-chloro-1-phthalazinone | 11.4 g, yield: 63% | ClC=1C=C2C=NNC(C2=CC1)=O | C8H5ClN2O
